US05324747
A mixture of 3.25 g (7.74 mmol) of 3-amino-5-(octadecyloxy)benzoic acid methyl ester, 3.7 ml (23 mmol) of benzyl bromoacetate, 4.2 g (19.4 mmol) of 1,8-bis(dimethylamino)naphthalene and 0.3 g (2.2 mmol) of sodium iodide in 65 ml of acetronitrile and 20 ml of DMF was stirred and heated at reflux under argon for 48 hours. The reaction mixture was concentrated at reduced pressure and ethyl acetate was added to the residue. The extract was washed with 0.05N HCl, with saturated NaHCO3 solution, dried and concentrated at reduced pressure to a solid which was purified by HPLC using 15% ethyl acetate-hexane to give 2.6 g (48% yield, mp 62°-63°) of N-[3-(methoxycarbonyl)-5-(octadecyloxy)phenyl]-N-[2-oxo-2-(phenylmethoxy)ethyl]glycine phenylmethyl ester.

reactant | 3-amino-5-(octadecyloxy)benzoic acid methyl ester | 7.74 mmol, 3.25 g | COC(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)N)=O | C26H45NO3
reactant | benzyl bromoacetate | 23 mmol, 3.7 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | 1,8-bis(dimethylamino)naphthalene | 19.4 mmol, 4.2 g | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | sodium iodide | 2.2 mmol, 0.3 g | [I-].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | N-[3-(methoxycarbonyl)-5-(octadecyloxy)phenyl]-N-[2-oxo-2-(phenylmethoxy)ethyl]glycine phenylmethyl ester | 2.6 g, 48% yield | C1(=CC=CC=C1)COC(CN(CC(OCC1=CC=CC=C1)=O)C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)C(=O)OC)=O | C44H61NO7
